US08957074B2
Following general N—C coupling procedure 1, hexahydro-pyrrolo[1,2-a]pyrazin-1-one (0.202 g, 1.44 mmol), was combined with 5-bromo-2-nitropyridine (0.293 g, 1.44 mmol, 1.0 eq) which gave 2-(6-Nitro-pyridin-3-yl)hexahydro-pyrrolo[1,2-a]pyrazin-1-one as a tan solid (0.170 g, 0.616 mmol) in 43% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.79-2.19 (m, 1H) 2.31 (br. s., 1H) 2.77 (br. s., 1H) 2.98-3.16 (m, 1H) 3.26 (dt, J=12.05, 4.52 Hz, 1H) 3.47 (br. s., 1H) 3.80 (br. s., 1H) 3.95-4.23 (m, 1H) 8.15 (dd, J=8.53, 2.51 Hz, 1H) 8.32 (d, J=8.53 Hz, 1H) 8.70 (d, J=2.51 Hz, 1H). MS m/z 263.1 (M+H)+.

reactant | hexahydro-pyrrolo[1,2-a]pyrazin-1-one | 1.44 mmol, 0.202 g | C1(C2N(CCN1)CCC2)=O | C7H12N2O
reactant | 5-bromo-2-nitropyridine | 1.44 mmol, 0.293 g, 1.0 eq | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 2-(6-Nitro-pyridin-3-yl)hexahydro-pyrrolo[1,2-a]pyrazin-1-one | 0.616 mmol, 0.170 g, 43% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1C(C2N(CC1)CCC2)=O | C12H14N4O3
